US06525042B1
1-[(Benzimidazol-5-yl)carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]homopiperazine hydrochloride
In a similar manner to Example 71 except for the use of methyl N-triphenylmethyl-5-benzimidazolecarboxylate and 1-[(6-chloronaphthalen-2-yl)sulfonyl]homopiperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | methyl N-triphenylmethyl-5-benzimidazolecarboxylate | C1(=CC=CC=C1)C(N1C=NC2=C1C=CC(=C2)C(=O)OC)(C2=CC=CC=C2)C2=CC=CC=C2 | C28H22N2O2
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]homopiperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCCC1
product | 1-[(Benzimidazol-5-yl)carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]homopiperazine hydrochloride | Cl.N1=CNC2=C1C=CC(=C2)C(=O)N2CCN(CCC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl | InChI=1S/C23H21ClN4O3S.ClH/c24-19-5-2-17-13-20(6-3-16(17)12-19)32(30,31)28-9-1-8-27(10-11-28)23(29)18-4-7-21-22(14-18)26-15-25-21;/h2-7,12-15H,1,8-11H2,(H,25,26);1H
